US07560558B2
2,3-Dimethylfuran (5 g) was dissolved in diethyl ether (75 ml) under an argon atmosphere. A 1.6 M hexane solution (35.7 ml) of n-butyllithium was added dropwise thereto at 0° C., and the mixture was stirred under reflux for 2.5 hr. Thereafter, the reaction solution was cooled to −78° C., a solution of 2-cyanopyridine (6.0 g) in diethyl ether (20 ml) was added dropwise thereto, and the mixture was stirred at room temperature for 3 hr. The reaction solution was poured into ice to stop the reaction. The reaction solution was adjusted to pH 5 by the addition of 2 M hydrochloric acid and was then extracted with chloroform. The chloroform layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give (4,5-dimethylfuran-2-yl)-(2-pyridyl)-methanone (1.8 g, yield 17%).

reactant | 2,3-Dimethylfuran | 5 g | CC=1OC=CC1C | C6H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-cyanopyridine | 6.0 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | diethyl ether | 75 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | hexane | 1.6 M, 35.7 ml | CCCCCC | C6H14
product | (4,5-dimethylfuran-2-yl)-(2-pyridyl)-methanone | 1.8 g, yield 17% | CC=1C=C(OC1C)C(=O)C1=NC=CC=C1 | C12H11NO2
